US07795262B2
Step 1. Preparation of 2-(6-bromo-3,4-dihydro-1H-isoquinolin-2-yl)-1-(4-cyclobutyl-piperazin-1-yl)-ethanone
To a stirred solution of 6-bromo-1,2,3,4-tetrahydro-isoquinoline hydrochloride (3.09 g, 12.4 mmol) in acetonitrile (50.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (2.69 mg, 12.4 mmol, 1.0 eq.), K2CO3 (5.14 g, 37.3 mmol, 3.0 eq.), and NaI (400 mg). The resulting mixture is stirred at rt overnight. Water (40.0 ml) is added to quench the reaction, and then the acetonitrile is evaporated. The residue is extracted with DCM (40 ml×3). The combined organic phase is dried over sodium sulfate, and the solvent is removed under reduced pressure to give a residue that is purified by flash silica gel chromatography (EtOAc/4% TEA) to give the title compound. MS (+VE) m/z 392.2 (M++1).

reactant | 6-bromo-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 12.4 mmol, 3.09 g | Cl.BrC=1C=C2CCNCC2=CC1
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 12.4 mmol, 2.69 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 37.3 mmol, 5.14 g, 3.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 400 mg | [Na+].[I-]
solvent | acetonitrile | 50.0 ml | C(C)#N | C2H3N
solvent | Water | 40.0 ml | O | H2O
product | 2-(6-bromo-3,4-dihydro-1H-isoquinolin-2-yl)-1-(4-cyclobutyl-piperazin-1-yl)-ethanone | BrC=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C19H26BrN3O
